US05733912
19d. 7a-(6-chloro-5-methyl-3-pyridinyl)-hexahydro-1H-pyrrolizine hydrochloride salt
7a-(6-Chloro-5-methyl-3-pyridinyl)-hexahydro-1H-pyrrolizine (245 mg, 1.03 mmol) was dissolved in Et2O, and Et2O saturated with HCl (g) was added. The solvent was removed, and the solid was crystallized from MeOH/Et2O and dried to afford the title compound as white plates: mp 179°-180° C.; 1H NMR D2O, 300 MHz) δ2.14-2.48 (m, 9H) 2.56-2.65 (m, 2H), 3.34-3.42 (m, 2H), 3.79-3.87 (m, 2H), 7.89 (d, J=3.0 Hz, 1H), 8.33 (d. J=3.0 Hz, 1H); MS (CI/NH3) m/z: 237/239 (M+H)+ ; MS (CI/NH3): m/z 237 (M+H+). Anal. Calcd for C13H17ClN2.HCl.0.2 HCl: C, 55.67; H, 6.54; N, 9.99. Found: C, 55.90; H, 6.57; N, 9.76.

reactant | 7a-(6-Chloro-5-methyl-3-pyridinyl)-hexahydro-1H-pyrrolizine | 1.03 mmol, 245 mg | ClC1=C(C=C(C=N1)C12CCCN2CCC1)C | C13H17ClN2
reactant | HCl | Cl | ClH
solvent | Et2O | CCOCC | C4H10O
product | 7a-(6-chloro-5-methyl-3-pyridinyl)-hexahydro-1H-pyrrolizine hydrochloride salt | Cl.ClC1=C(C=C(C=N1)C12CCCN2CCC1)C | InChI=1S/C13H17ClN2.ClH/c1-10-8-11(9-15-12(10)14)13-4-2-6-16(13)7-3-5-13;/h8-9H,2-7H2,1H3;1H
